US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 4-cyanobenzeneboronic acid were coupled in the same way as in Example 30 to give 2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)-imidazo[1,2-α]pyridin-3-yl]biphenyl-4-carbonitrile as an off-white solid (12 mg, 10%): m/z (ES+) 390 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 4-cyanobenzeneboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)-imidazo[1,2-α]pyridin-3-yl]biphenyl-4-carbonitrile | 12 mg, 10% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=CC=C(C=C2)C#N | C23H17F2N3O
